*5TH-ORDER LOW-PASS FILTER
* designed with a cut-off frequency of 10kHz

V1 type=vac vac=1
R1 2 1 1
L1 2 3 0.618
L2 3 4 2
L3 4 5 0.618
C1 3 6 1.618
C2 4 6 1.618
R2 5 6 1
.op
.AC log 20 1 1M
.END
