*5TH-ORDER LOW-PASS FILTER
* designed with a cut-off frequency of 10kHz

V1 1 0 type=vdc vdc=0 type=vac vac=1
R1 1 2 1
L1 2 3 0.618
L2 3 4 2
L3 4 5 0.618
C1 0 3 1.618
C2 0 4 1.618
R2 0 5 1
*.op
.AC type=log nsteps=10 start=1 stop=1Meg
.END
